US08859773B2
Concentrated sulfuric acid (0.45 mL, 4.8 mmol) was added to a mixture of ethyl 3-bromo-1H-pyrazole-4-carboxylate (1.0 g, 4.6 mmol) and tert-amyl alcohol (3.0 mL, 27 mmol). The reaction was heated to 100° C. for 2.5 hours. The reaction was then cooled to room temperature and left stirring overnight. The reaction was diluted with ethyl acetate and washed with water. The organic layer was dried over sodium sulfate, filtered, and concentrated to yield ethyl 3-bromo-1-tert-pentyl-1H-pyrazole-4-carboxylate (1.3 g) as a crude brown oil.

reactant | sulfuric acid | 4.8 mmol, 0.45 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethyl 3-bromo-1H-pyrazole-4-carboxylate | 4.6 mmol, 1.0 g | BrC1=NNC=C1C(=O)OCC | C6H7BrN2O2
reactant | tert-amyl alcohol | 27 mmol, 3.0 mL | C(C)(C)(CC)O | C5H12O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-bromo-1-tert-pentyl-1H-pyrazole-4-carboxylate | 1.3 g | BrC1=NN(C=C1C(=O)OCC)C(C)(C)CC | C11H17BrN2O2
